US08030497B2
d) 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde
To a solution of 7.02 g (20.1 mmol) of 1-(2-Hydroxy-ethyl)-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole-5-carbonitrile in 280 ml pyridine is added 140 ml acetic acid. After addition of a solution of 14.1 g (161 mmol) sodium hypophosphite in 140 ml water and heating to 50° C. Raney-Nickel is added in 50 mg portions (3× over 12 h) until the reaction is complete. The reaction mixtures is cooled to RT, ice/water is added and the reaction mixture is extracted with ethyl acetate (3×). The organic layer is washed with water, in vacuo and azeotroped with toluene. The residue is suspended in 100 ml CH2Cl2, filtered and washed with CH2Cl2 and ethyl acetate. The mother liquor is evaporated and purified by flash-chromatography on silica gel (hexanes/EtOAc) to give 3.78 g of colorless crystals.

reactant | 1-(2-Hydroxy-ethyl)-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole-5-carbonitrile | 20.1 mmol, 7.02 g | OCCN1C(=NC2=C1C(=CC(=C2)C#N)OC)C2=CC=C(C=C2)C(C)C | C20H21N3O2
reactant | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
reactant | sodium hypophosphite | 161 mmol, 14.1 g | [PH2](=O)[O-].[Na+]
reactant | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 140 ml | O | H2O
catalyst | Raney-Nickel | [Ni] | Ni
product | 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde | 3.78 g | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C=O)OC | C21H24N2O3
